US04792616
by using methyl 2-hydroxypropylcarbamate and 2-bromopropionyl bromide there is obtained methyl 2-(2-bromopropionyloxy)-propylcarbamate, nD20 1.4764;

reactant | methyl 2-hydroxypropylcarbamate | OC(CNC(OC)=O)C | C5H11NO3
reactant | 2-bromopropionyl bromide | BrC(C(=O)Br)C | C3H4Br2O
product | methyl 2-(2-bromopropionyloxy)-propylcarbamate | BrC(C(=O)OC(CNC(OC)=O)C)C | C8H14BrNO4
